Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
keflex / Celexa
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with a history of IV drug use (on suboxone), 
hepatitis C, MRSA spinal epidural abscess/phlegmon, L5/S1 
osteomyelitis with paravertebral abscess (s/p 8 week course of 
vancomycin ___, admitted to ___ ___ with recurrence 
of prior infection with MRSA osteomyelitis/discitis, epidural
abscess, now presenting to ___ after leaving ___ AMA for 
behavioral problems.

After ___ ___ re-admission, he was discharged to ___ with 
lumbar pigtail drain in place on ___ for ongoing IV abx. He 
subsequently was administratively disharged from ___ after 
having multiple positive UTox while there, elopement with PICC 
in place, and at times refusing IV abx. He then presented to ___ 
on ___ with ongoing back pain and was admitted until ___ when 
he
was administratively discharged for "behavioral problems." That 
admission, he was diagnosed with candidemia (from blood culture 
from ___ on ___ (had normal dilated eye exam ___ and TTE 
on ___, he was started on fluconazole with plan for 14 day 
course. He underwent ___ drainage of subcutaneous lumbar 
pocket, with cultures growing MRSA. He was again 
administratively
discharged on ___ after repeatedly leaving the floor to smoke, 
and being found with drug paraphernalia.
 
While there, he was given suboxone ___ TID per their addiction 
consult team (note that ___ review shows rx for ___ BID, 
however this was recently increased to TID by outpatient doctor 
and per ___ records, patient had paper rx demonstrating this). 
He was also given dilaudid 8mg PO for pain.

Labs at that admisison showed CRP 9.2 and ESR 31 on ___. 

He re-presented to ___ on ___, CRP at that time was 1.2. He 
then left ___ AMA today, which he says was due to an argument 
with his nurse.

He denies new leg weakness, leg numbness, saddle anesthesia, 
bowel or bladder incontinence, shortness of breath. 

Initial vital signs:
97.7
98
126/72
18
97% RA

Exam notable for tenderness in thoracic spine, neuro exam 
unremarkable.

Labs were notable for: ALT 50, AST 59, trop negative. Hb 10.2, 
Na
129.

CXR showed:
Low lung volumes. Asymmetric hazy opacification left lung field 
with prominence of the pulmonary vasculature may represent an 
element of asymmetric pulmonary edema versus developing 
infection versus asymmetric atelectasis.

Patient was given: 1g vancomycin and 200mg PO fluconazole.

Vitals on transfer:
83
122/70
12
97% RA

Upon arrival to the floor, the patient appeared sleepy and asked 
for his suboxone. He states that he started having back pain 13 
months ago. He initially went to ___ where he was diagnosed with 
a "spine infection"; he then went to ___, where he got an 
infection from his ___ line, then went back to ___. He denies 
fever, chest pain, shortness of breath but endorses hip pain and 
knee pain bilaterally (chronic). He states that the pain worsens
with walking and he recently started using a cane. He denies 
falls.
 
Past Medical History:
HCV
IV drug use
 
Social History:
___
Family History:
Grandmother had diabetes and cancer
Mother has aneurysms and hypertension
 
Physical Exam:
ADMISSION
=========
VITALS: ___ Temp: 97.9 PO BP: 112/76 HR: 88 RR: 16 O2
sat: 95% O2 delivery: RA 
GENERAL: Sleepy, middle aged man lying in bed, NAD
HEENT: small pupils, reactive, symmetric
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Pain to palpation in mid-low back
ABDOMEN: Normal bowels sounds, non-tender to deep palpation in
all four quadrants. 
SKIN: No rash.
NEUROLOGIC: patient is conversant but sleepy, moving all 4
extremities against gravity

DISCHARGE
=========
VITALS: ___ ___ Temp: 98.0 PO BP: 116/68 HR: 64 RR: 18 O2
sat: 98% O2 delivery: RA 
GENERAL: Alert and oriented, no acute distress
ENT: NT/AC, PERRLA, EOMI
CV: RRR, no murmurs, rubs, or gallops
RESP: CTAB
GI: NT/ND, BS+
MSK: Tenderness to palpation over the lumbar spine.
SKIN: Hyperpigmented ___ with numerous pockmarks.
Left arm warm and mildly tender to palpation medially around the
site of previous PICC line.
NEURO: Sleepy but arousable. CNII-XII grossly intact, no focal
neurologic deficit.
 
Pertinent Results:
___
=============
___ 12:10PM   ___ PTT-31.3 ___
___ 12:10PM   NEUTS-73.9* LYMPHS-16.8* MONOS-5.9 EOS-2.5 
BASOS-0.5 IM ___ AbsNeut-4.13 AbsLymp-0.94* AbsMono-0.33 
AbsEos-0.14 AbsBaso-0.03
___ 12:10PM   WBC-5.6 RBC-3.27* HGB-10.2* HCT-30.5* MCV-93 
MCH-31.2 MCHC-33.4 RDW-13.2 RDWSD-45.0
___ 12:10PM   CRP-27.9*
___ 12:10PM   cTropnT-<0.01
___ 12:10PM   LIPASE-31
___ 12:10PM   ALT(SGPT)-50* AST(SGOT)-59* ALK PHOS-59 TOT 
BILI-0.5
___ 12:10PM   GLUCOSE-105* UREA N-14 CREAT-0.9 SODIUM-129* 
POTASSIUM-5.5* CHLORIDE-91* TOTAL CO2-26 ANION GAP-12

IMAGING
=======
FINDINGS:  
Edema and heterogeneous enhancement is seen along the right 
L5-S1 facet joint this extends to involve the epidural space to 
involve the right neural foramen and tracks along the anterior 
epidural space to the left neural foramen of L5-S1 and 
superiorly behind the L5 vertebral body. 
  
Additionally, there is thickening and enhancement of the right 
iliacus muscle and bone marrow edema involving the L5 vertebral 
body and its left pedicle and the sacrum bilaterally.  The 
sacroiliac joints are intact. 
  
There is mild disc desiccation at L4-5.  The spinal cord appears 
normal in 
caliber and configuration.  Within the phlegmonous changes 
extending along the right neural foramina of L5-S1, a rim 
enhancing collection is seen measuring approximately the 15 mm 
AP x 5 mm TRV by 15 mm CC, series 9, image 31 and series 8, 
image 6. 
  
T12-L1: No spinal canal or foraminal narrowing. 
  
L1-L2: No spinal canal or foraminal narrowing. 
  
L2-L3: No spinal canal or foraminal narrowing. 
  
L3-L4: No spinal canal or foraminal narrowing. 
  
L4-L5: A disc bulge is seen with hypertrophy of the ligamentum 
flavum facets.
 
There is moderate spinal canal narrowing with mild right and 
moderate left 
foraminal narrowing. 
  
L5-S1: A disc bulge and with the epidural collection cause 
severe spinal canal narrowing with severe right and moderate 
left foraminal narrowing. 
  
IMPRESSION:   
1. Phlegmonous change is seen involving the right L5-S1 facet 
joint, the 
bilateral neural foramina at L5-S1 and anterior epidural space 
at L5-S1.  
Small 15 mm rim enhancing collection is seen within the 
phlegmonous changes at the right L5-S1 neural foramina. 
2. Additionally, there is edema involving the L5 vertebral body, 
its left 
pedicle and the bilateral sacrum concerning for osteomyelitis.  
Moreover, 
thickening and enhancement is seen involving the right iliacus 
muscle 
concerning for paravertebral involvement.  The L5-S1 
intervertebral disc is intact. 
3. As result, there is severe spinal canal and severe right 
moderate left 
foraminal narrowing at L5-S1.

DISCHARGE LABS
==============
___ 07:52AM BLOOD WBC-3.3* RBC-3.91* Hgb-12.2* Hct-36.9* 
MCV-94 MCH-31.2 MCHC-33.1 RDW-13.3 RDWSD-45.6 Plt ___
___ 07:52AM BLOOD Glucose-175* UreaN-15 Creat-0.8 Na-135 
K-4.9 Cl-99 HCO3-21* AnGap-15
 
Brief Hospital Course:
Mr. ___ is a ___ year-old male w/ Hepatitis C and with opioid 
use disorder who presented with back pain I/s/o osteomyelitis 
and candidemia. He had been seen multiple times at ___ with AMA 
or Administrative discharges in the days preceding his admission 
here for the same condition. Initially admitted to ___ ___ 
during which he underwent ___ drainage of abscess which showed 
MRSA. Discharged administratively on ___, then represented and 
re-admitted, left AMA within 24h, then represented and left AMA 
from ED prior to presenting to ___ ED. He reports he last had 
a "slip up" with IV opiate use ___ years ago, but acknowledges a 
recent relapse on pills; has been on suboxone for ___ years, 
followed by Dr. ___ in ___. Consulted addiction team and SW 
here who recommended continuing home Suboxone and counseling 
patient that he would likely need to remain here with PICC for 
course of IV antibiotics. ID consulted and recommended 
continuing Vancomycin IV and oral Fluconazole (for which ___ 
charts showed ___ to be sensitive). Patient asked to remain 
on the floor, but repeatedly found to be off the floor, for what 
he reports were smoking breaks. An ultimatum was given to him 
that per policy he could not continue to leave the floor with IV 
access and he decided staying here was too restrictive and asked 
to leave with PO antibiotics. Addiction contacted and 
recommended he get in touch with his Suboxone provider for 
ongoing prescriptions. ID contacted and per harm reduction 
recommended the previously outlined oral antibiotic course from 
___: Bactrim DS 2 tabs q8h to continue through ___ for MRSA 
osteomyelitis, and Fluconazole 400mg q24h to continue through 
___ for Candidal infection. Patient provided with antibiotic 
prescriptions and a prescription for Narcan.

TRANSITIONAL ISSUES
===================
[ ] Discharging on oral antibiotics per patient's insistence on 
leaving; however this is clearly not the ideal regimen. MRI here 
with osteomyelitis and abscess which it is difficult to 
interpret whether changes seen are post-drainage or 
re-accumulation of abscess. If patient were to re-present to 
___ or other hospital and willing to stay for treatment, 
would consider consultation with ___ regarding drainage of 
abscess.
[ ] If re-presenting to hospital, would clarify policy of not 
leaving the floor up front.
[ ] Would benefit from treatment of HCV infection, which has 
never been attempted. Will leave to PCP for arranging hepatology 
follow-up.
( ) PCP should check potassium while on high dose bactrim.

Greater than ___ hour spent on care on day of discharge. 

#CODE: Full (presumed)
#CONTACT: patient declined to provide emergency contact or HCP
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Eraxis(Water Diluent) (anidulafungin) 100 mg injection DAILY 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea/wheeze 
3. Baclofen 20 mg PO TID 
4. HYDROmorphone (Dilaudid) 8 mg PO Q4H:PRN Pain - Severe 
5. Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
6. Lidocaine 5% Patch 2 PTCH TD QAM 
7. Nicotine Patch 7 mg/day TD DAILY 
8. Nicotine Polacrilex 2 mg PO Q1H:PRN cravings 
9. Sulfameth/Trimethoprim DS 3 TAB PO Q8H 
10. Vancomycin 1500 mg IV Q 8H 
11. GuaiFENesin ER 600 mg PO Q12H 
12. Citalopram 40 mg PO DAILY 
13. DiphenhydrAMINE 50 mg PO Q6H:PRN ?anxiety, insomnia 
14. Acetaminophen 975 mg PO Q6H:PRN Pain - Mild 
15. Fluconazole 400 mg PO Q24H 
16. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 

 
Discharge Medications:
1.  Naloxone Nasal Spray 4 mg IH ONCE MR1 Duration: 1 Dose 
RX *naloxone [Narcan] 4 mg/actuation 1 spray inh once, may 
repeat once Disp #*1 Spray Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO Q8H Duration: 16 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth every eight (8) hours Disp #*96 Tablet Refills:*0 
3.  Acetaminophen 975 mg PO Q6H:PRN Pain - Mild  
4.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea/wheeze  
5.  Baclofen 20 mg PO TID  
6.  Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
Consider prescribing naloxone at discharge  
7.  Citalopram 40 mg PO DAILY  
8.  DiphenhydrAMINE 50 mg PO Q6H:PRN ?anxiety, insomnia  
9.  Fluconazole 400 mg PO Q24H Duration: 4 Days 
RX *fluconazole 200 mg 2 tablet(s) by mouth q24h Disp #*8 Tablet 
Refills:*0 
10.  GuaiFENesin ER 600 mg PO Q12H  
11.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild  
12.  Lidocaine 5% Patch 2 PTCH TD QAM  
13.  Nicotine Patch 7 mg/day TD DAILY  
14.  Nicotine Polacrilex 2 mg PO Q1H:PRN cravings  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Line-associated ___ Infection
MRSA Vertebral Osteomyelitis with Paraspinal Abscess
Opioid Use Disorder
Anemia
HCV
Tobacco Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had an infection in your back and spinal cord, as well as 
a fungal infection in your blood.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were treated with IV and oral antibiotics.

- The plan was for a longer term course of IV antibiotics, but 
the restrictions of staying on the floor with IV access were too 
strict and you felt that it was best to leave with oral 
antibiotics rather than stay for the full course of IV 
antibiotic treatment. We discussed that oral antibiotics are 
likely not as good at treating the infection but they are better 
than not treating it at all.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___